reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[O:1]=[C:5]1[C:4]([H:9])([H:10])[N:3]([H:8])[C:2]([H:7])=[N:6]1>>[O:1]=[C:2]([N:3]([C:4]([C:5]#[N:6])([H:9])[H:10])[H:8])[H:7],126.10846924808337
[C:1](/[N:2]=[C:3]1\[O:4][C:5]1([H:11])[H:12])([H:7])([H:8])[H:9].[O:6]([H:10])[H:13]>>[C:1]([N:2]([C:3](=[O:4])[C:5]([O:6][H:13])([H:11])[H:12])[H:10])([H:7])([H:8])[H:9],19.057907773119396
[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@:4]1([O:5][C:6](=[O:7])[H:13])[H:12])[H:8]>>[C-:6]#[O+:7].[O:1]([C:2]([C:3]([C:4](=[O:5])[H:12])([H:10])[H:11])([H:9])[H:13])[H:8],61.8946189867533
[C:1]([C@@:2]([O:3][H:12])([C:4]([C:5]([C:6][O:7][H:17])([H:15])[H:16])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([O:3][H:12])([C:4]([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],27.04548980423941
[O:1]([C:2]1([C:5]#[C:6][H:12])[C:3]([H:8])([H:9])[C:4]1([H:10])[H:11])[H:7]>>[C:2]1([C:5]#[C:6][H:12])=[C:4]([H:11])[C:3]1([H:8])[H:9].[O:1]([H:7])[H:10],79.9618997558766
[C:1]([C@@:2]1([H:11])[C:3]([H:12])=[C:4]([H:13])[N:5]([H:14])[C:6]1=[O:7])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[C:3]=[C:4]([H:12])[H:13])[H:11])([H:8])([H:9])[H:10].[N:5](=[C:6]=[O:7])[H:14],118.064987586229
[C-:2]#[O+:3].[N:1]([N:6]([C:5](=[O:4])[H:9])[H:10])([H:7])[H:8]>>[N:1]([C:2](=[O:3])[O:4]/[C:5](=[N:6]/[H:10])[H:9])([H:7])[H:8],100.8738338407768
[C:1]([C@:2]12[C@@:3]3([H:11])[C@:4]4([H:12])[C@@:5]3([H:13])[C@@:6]1([H:14])[C@:7]24[H:15])([H:8])([H:9])[H:10]>>[C:1](=[C:2]1[C:3]([H:10])([H:11])[C@@:4]2([H:12])[C:5]([H:13])=[C:6]([H:14])[C@@:7]12[H:15])([H:8])[H:9],86.7124426913601
[C:1]([C@@:2]([O:3][H:11])([C:4]([N:5]([H:14])[H:15])([H:12])[H:13])[C:6]#[N:7])([H:8])([H:9])[H:10]>>[C:1]([C@:2]([O:3][H:11])([C:6]#[N:7])[H:13])([H:8])([H:9])[H:10].[C:4]([N:5]([H:14])[H:15])[H:12],72.1390092621865
[C:1]([C@@:2]([O:3][H:11])([C:4]([C:5]#[N:6])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]([O:3][H:11])([C:4]([N+:6]#[C-:5])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9],60.4803449643415
[C:1]([O:2][c:3]1[n:4][n:5]([H:11])[c:6]([H:12])[c:7]1[H:13])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3]1=[N:4][N:5]([H:11])[C:6][C:7]1([H:12])[H:13])([H:8])([H:9])[H:10],64.2437137381382
[N:1](=[C:2]=[C:6]=[N:7][O:5][C:4](=[O:3])[H:9])[H:8]>>[N:1](=[C:2](\[O:3][C:4](=[O:5])[H:9])[C:6]#[N:7])\[H:8],7.801678361769504
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])(/[C:4](=[C:5](\[O:6][H:15])[H:16])[H:14])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([C:5](=[O:6])[H:16])([H:14])[H:15])[H:10])([H:7])([H:8])[H:9],58.7989782179671
[N:1]([C:2](=[O:3])[C:4]([C:5]([O:6][H:13])([H:11])[H:12])([H:9])[H:10])([H:7])[H:8]>>[N:1]([C@@:2]1([O:3][H:12])[C:4]([H:9])([H:10])[C@@:5]1([O:6][H:13])[H:11])([H:7])[H:8],85.94782454218469
[C:1](/[C:2](=[C:3](\[O:4][H:10])[H:11])[C:5]#[N:6])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]([C:3](=[O:4])[H:11])([C:5]#[N:6])[H:10])([H:7])([H:8])[H:9],60.10454817263434
[O:1]([C:2]([C@@:3]1([C:6][O:7][H:14])[C:4]([H:11])([H:12])[N:5]1[H:13])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C@@:3]1([C:6](=[O:7])[H:14])[C:4]([H:11])([H:12])[N:5]1[H:13])([H:9])[H:10])[H:8],28.352895732303807
[C:1]([N:2]([C:6]1=[N:7][C@@:3]1([C:4]([O:5][H:15])([H:13])[H:14])[H:12])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:2]([C@@:3]([C:4]([O:5][H:15])([H:13])[H:14])([C:6]#[N:7])[H:12])[H:11])([H:8])([H:9])[H:10],70.85826032865279
[N:1]([C:4]([C:2]#[O+:3])=[C-:5][H:8])([H:6])[H:7]>>[N:1]([C:2](=[O:3])[C:4]#[C:5][H:8])([H:6])[H:7],22.776857133028706
[C:1]([C@@:2]1([H:9])[C:4]([O:3][H:10])=[N:5]1)([H:6])([H:7])[H:8]>>[C:1]([C@@:2]([O:3][H:10])([C:4]#[N:5])[H:9])([H:6])([H:7])[H:8],61.97464807173481
[O:1]([C:2]([C@@:3]1([H:11])[C-:4]=[C:5]([H:12])[N+:7]#[C:6]1)([H:9])[H:10])[H:8]>>[O:1]([C:2]([C@@:3]([C:4]#[C:5][H:12])([C:6]#[N:7])[H:11])([H:9])[H:10])[H:8],1.582039144131869
[O:1]=[C:2]([C:3]([C:4]([C:5]#[N:6])([H:10])[H:11])([H:8])[H:9])[H:7]>>[O+:1](=[C-:2][H:7])[C:3]([C:4]([C:5]#[N:6])([H:10])[H:11])([H:8])[H:9],117.889954316316
[C:1]([C@@:2]([O:3][H:11])([C:4]([C:5]([O:6][H:16])([H:14])[H:15])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2][O:3][H:11])([H:7])([H:8])[H:9].[C:4]([C:5]([O:6][H:16])([H:14])[H:15])([H:10])([H:12])[H:13],84.72552024304271
[C:1]([O:2][C:6]1=[N:7][C:3]1([C:4]([H:11])([H:12])[H:13])[C:5]([H:14])([H:15])[H:16])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3]([C:4]([H:11])([H:12])[H:13])([C:5]([H:14])([H:15])[H:16])[C:6]#[N:7])([H:8])([H:9])[H:10],55.2428585638326
[C:1]([O:2][C:3]([O:4][C:6]([O:7][H:15])([H:13])[H:14])=[C:5]([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3](=[O:4])[C:5]([C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],56.3746152936441
[C:1]([C-:2]([N+:3]([C:4]([C:5]#[N:6])([H:13])[H:14])([H:11])[H:12])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2]([N:3]([C:4]([C:5]#[N:6])([H:13])[H:14])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],13.199309857974384
